### PR TITLE
[Merged by Bors] - feat(RingTheory/Smooth): calculate `H¹(L)` via formally smooth extensions

### PR DESCRIPTION
**Pull request by erdOne**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Ideal/Cotangent.lean [hunk 1]
```diff
@@ -120,18 +120,31 @@ theorem cotangentIdeal_square (I : Ideal R) : I.cotangentIdeal ^ 2 = ⊥ := by
     rw [sub_zero, pow_two]; exact Ideal.mul_mem_mul hx hy
   · intro x y hx hy; exact add_mem hx hy
 
-theorem to_quotient_square_range :
+lemma mk_mem_cotangentIdeal {I : Ideal R} {x} :
```
Comment (chrisflav) [inline Mathlib/RingTheory/Ideal/Cotangent.lean:123]:
```suggestion
lemma mk_mem_cotangentIdeal {I : Ideal R} {x : R} :
```
I think this is easier to read.

File: Mathlib/RingTheory/Kaehler/CotangentComplex.lean [hunk 2]
```diff
@@ -353,6 +353,22 @@ lemma H1Cotangent.map_comp
     map (g.comp f) = (map g).restrictScalars S ∘ₗ map f := by
   ext; simp [Cotangent.map_comp]
 
+/-- Maps `P₁ → P₂` and `P₂ → P₁` between extensions induce an isomorphism of `H¹(L)`. -/
```
Comment (chrisflav) [inline Mathlib/RingTheory/Kaehler/CotangentComplex.lean:356]:
```suggestion
/-- Maps `P₁ → P₂` and `P₂ → P₁` between extensions induce an isomorphism of `H¹(L_{S/R})`. -/
```

File: Mathlib/RingTheory/Kaehler/CotangentComplex.lean [hunk 3]
```diff
@@ -353,6 +353,22 @@ lemma H1Cotangent.map_comp
...
+  __ := map f₁
+  invFun := map f₂
+  left_inv x :=
+    show (map f₂ ∘ₗ map f₁) x = LinearMap.id x by
+    rw [← Extension.H1Cotangent.map_id, eq_comm, map_eq _ (f₂.comp f₁),
+      Extension.H1Cotangent.map_comp]; rfl
+  right_inv x :=
+    show (map f₁ ∘ₗ map f₂) x = LinearMap.id x by
+    rw [← Extension.H1Cotangent.map_id, eq_comm, map_eq _ (f₁.comp f₂),
+    Extension.H1Cotangent.map_comp]; rfl
```
Comment (chrisflav) [inline Mathlib/RingTheory/Kaehler/CotangentComplex.lean:370]:
```suggestion
      Extension.H1Cotangent.map_comp]; rfl
```

File: Mathlib/RingTheory/Smooth/Kaehler.lean [hunk 4]
```diff
@@ -447,3 +449,118 @@ theorem Algebra.FormallySmooth.iff_subsingleton_and_projective :
...
+/-- The canonical map `P → P/I²` as maps between extensions. -/
+noncomputable
+def toInfinitesimal (P : Extension R S) : P.Hom P.infinitesimal where
+  toRingHom := Ideal.Quotient.mk _
+  toRingHom_algebraMap _ := rfl
+  algebraMap_toRingHom _ := rfl
+
+lemma ker_infinitesimal (P : Extension R S) :
+    P.infinitesimal.ker = P.ker.cotangentIdeal :=
+  AlgHom.ker_kerSquareLift _
```
Comment (chrisflav) [inline Mathlib/RingTheory/Smooth/Kaehler.lean:472]: Should these go to an earlier file? Maybe just to `Mathlib.RingTheory.Extension`?

File: Mathlib/RingTheory/Smooth/Kaehler.lean [hunk 5]
```diff
@@ -447,3 +449,118 @@ theorem Algebra.FormallySmooth.iff_subsingleton_and_projective :
...
+        rw [RingHom.mem_ker, map_mul, ← Ideal.mem_bot, ← P₂.ker.cotangentIdeal_square,
+          ← ker_infinitesimal, pow_two]
+        exact Ideal.mul_mem_mul (this r hr) (this s hs))).toRingHom
+    toRingHom_algebraMap := by simp
+    algebraMap_toRingHom x := by
+      obtain ⟨x, rfl⟩ := Ideal.Quotient.mk_surjective x
+      exact FormallySmooth.liftOfSurjective_apply _
+            (IsScalarTower.toAlgHom R P₂.infinitesimal.Ring S) _ _ x }
+
+/-- Formally smooth extensions have isomorphic `H¹(L)`. -/
```
Comment (chrisflav) [inline Mathlib/RingTheory/Smooth/Kaehler.lean:549]:
```suggestion
/-- Formally smooth extensions have isomorphic `H¹(L_{S/R})`. -/
```

File: Mathlib/RingTheory/Smooth/Kaehler.lean [hunk 6]
```diff
@@ -447,3 +449,118 @@ theorem Algebra.FormallySmooth.iff_subsingleton_and_projective :
...
+def toInfinitesimal (P : Extension R S) : P.Hom P.infinitesimal where
+  toRingHom := Ideal.Quotient.mk _
+  toRingHom_algebraMap _ := rfl
+  algebraMap_toRingHom _ := rfl
+
+lemma ker_infinitesimal (P : Extension R S) :
+    P.infinitesimal.ker = P.ker.cotangentIdeal :=
+  AlgHom.ker_kerSquareLift _
+
+lemma CotangentSpace.map_toInfinitesimal_bijective (P : Extension.{u} R S) :
```
Comment (chrisflav) [inline Mathlib/RingTheory/Smooth/Kaehler.lean:474]:
```suggestion
lemma CotangentSpace.bijective_map_toInfinitesimal (P : Extension.{u} R S) :
```
My understanding is that this is the right order, but we have a lot of lemmas named the other way round, so I am not sure.

File: Mathlib/RingTheory/Smooth/Kaehler.lean [hunk 7]
```diff
@@ -447,3 +449,118 @@ theorem Algebra.FormallySmooth.iff_subsingleton_and_projective :
...
+    exact (Cotangent.map_toInfinitesimal_bijective P).1 (congr_arg Subtype.val e)
+  · intro ⟨x, hx⟩
+    obtain ⟨x, rfl⟩ := (Cotangent.map_toInfinitesimal_bijective P).2 x
+    refine ⟨⟨x, ?_⟩, rfl⟩
+    simpa [← CotangentSpace.map_cotangentComplex,
+      map_eq_zero_iff _ (CotangentSpace.map_toInfinitesimal_bijective P).injective] using hx
+
+/--
+Given extensions `0 → I₁ → P₁ → S → 0` and `0 → I₂ → P₂ → S → 0` with `P₁` formally smooth,
+there is an arbitrary map `P₁/I₁² → P₂/I₂²` of extensions.
```
Comment (chrisflav) [inline Mathlib/RingTheory/Smooth/Kaehler.lean:522]:
```suggestion
Given extensions `0 → I₁ → P₁ → S → 0` and `0 → I₂ → P₂ → S → 0` with `P₁` formally smooth,
this is an arbitrarily chosen map `P₁/I₁² → P₂/I₂²` of extensions.
```

File: Mathlib/RingTheory/Smooth/Kaehler.lean [hunk 8]
```diff
@@ -447,3 +449,118 @@ theorem Algebra.FormallySmooth.iff_subsingleton_and_projective :
...
+def H1Cotangent.equivOfFormallySmooth (P₁ P₂ : Extension R S)
+    [FormallySmooth R P₁.Ring] [FormallySmooth R P₂.Ring] :
+    P₁.H1Cotangent ≃ₗ[S] P₂.H1Cotangent :=
+  .ofBijective _ (H1Cotangent.map_toInfinitesimal_bijective P₁) ≪≫ₗ
+    H1Cotangent.equiv (Extension.homInfinitesimal _ _) (Extension.homInfinitesimal _ _)
+    ≪≫ₗ .symm (.ofBijective _ (H1Cotangent.map_toInfinitesimal_bijective P₂))
+
+/-- Any formally smooth extension can be used to calculate `H¹(L_{S/R})`. -/
+noncomputable
+def equivH1Cotangent (P : Extension R S) [FormallySmooth R P.Ring] :
```
Comment (chrisflav) [inline Mathlib/RingTheory/Smooth/Kaehler.lean:560]:
```suggestion
def equivH1CotangentOfFormallySmooth (P : Extension R S) [FormallySmooth R P.Ring] :
```
maybe?

File: Mathlib/RingTheory/Smooth/Kaehler.lean (hunk 6 above)
Comment (erdOne) [reply Mathlib/RingTheory/Smooth/Kaehler.lean:474]: I think we put `injective` and `surjective` and `bijective` at the end. See [here](https://leanprover-community.github.io/contribute/naming.html#injectivity)

File: Mathlib/RingTheory/Kaehler/CotangentComplex.lean (hunk 2 above)
Comment (chrisflav) [reply Mathlib/RingTheory/Kaehler/CotangentComplex.lean:356]: Good point, maybe `H¹(L_P)` is better then? So something like "induce an isomorphism `H¹(L_P₁) ≃ₗ H¹(L_P₂)`?

**Review by chrisflav — APPROVED** [review]
Thanks!

maintainer merge

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge

**Comment by jcommelin** [comment]
bors d+

**Comment by erdOne** [comment]
bors merge
